US06455528B1
(4) N-(4-((4-(5-Bromothiazol-2-yl)piperazin-1-yl)methyl)phenylmethyl)acetamide
A solution of N-(4-chloromethylphenylmethyl)acetamide (0.9 g), 1-(5-bromothiazol-2-yl)piperazine (1.1 g) and potassium carbonate (0.9 g) in dimethylformamide (10 ml) was stirred at 70° C. for 9 hr. Water (100 ml) was poured into the reaction mixture to allow precipitation of crystals. The crystals were collected by filtration and washed with water to give the title compound (1.5 g) as yellow crystals, m.p.=160-163° C.

reactant | N-(4-chloromethylphenylmethyl)acetamide | 0.9 g | ClCC1=CC=C(C=C1)CNC(C)=O | C10H12ClNO
reactant | 1-(5-bromothiazol-2-yl)piperazine | 1.1 g | BrC1=CN=C(S1)N1CCNCC1 | C7H10BrN3S
reactant | potassium carbonate | 0.9 g | C([O-])([O-])=O.[K+].[K+]
reactant | Water | 100 ml | O | H2O
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | N-(4-((4-(5-Bromothiazol-2-yl)piperazin-1-yl)methyl)phenylmethyl)acetamide | 1.5 g | BrC1=CN=C(S1)N1CCN(CC1)CC1=CC=C(C=C1)CNC(C)=O | C17H21BrN4OS
